US08859541B2
N-[5-[benzenesulfonyl(methyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]-2-(methylamino)propanamide
A mixture of tert-butyl-N-[1-[[5-[benzenesulfonyl(methyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate F5a (25 mg) and DCM:TFA (9:1, 3 ml) is stirred at RT for 2 h. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 7 mg. HPLC-MS: M+H=449; tR=1.49 min (*Method—1).

reactant | tert-butyl-N-[1-[[5-[benzenesulfonyl(methyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)N(C)S(=O)(=O)C1=CC=CC=C1)C#CC1=CC=CC=C1)C)=O | C29H32N4O5S
reactant | DCM TFA | 3 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[5-[benzenesulfonyl(methyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]-2-(methylamino)propanamide | C1(=CC=CC=C1)S(=O)(=O)N(C=1C=CC(=NC1C#CC1=CC=CC=C1)NC(C(C)NC)=O)C | C24H24N4O3S
